US04678781
The starting material was prepared by reaction of 1-bromoisoquinoline with HBr to give 1,4-dibromoisoquinoline, m.p. 95°-96°, followed by reaction of this compound with trimethyloxonium tetrafluoroborate in CH2Cl2 to give 1,4-dibromo-2-methylisoquinolinium tetrafluoroborate; n.m.r. in solvent A: 3.5(s, 3H); 7.2-8.4(m, 5H).

reactant | 1-bromoisoquinoline | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
reactant | HBr | Br | BrH
product | 1,4-dibromoisoquinoline | BrC1=NC=C(C2=CC=CC=C12)Br | C9H5Br2N
